US04680402
PREPARATION OF 2-(4-methyl-1-piperidinyl)-5-nitro-4'-chlorobenzophenone
A mixture of 0.024 mole (0.96 g) of NaOH, 25 ml of water, 0.02 mole (5.92 g) of 2,4'-dichloro-5-nitro-benzophenone and of 0.022 mole (2.6 ml) of 4-methylpiperidine is heated to 80° C. for three and a half hours. After cooling the reaction medium to normal temperature the resulting precipitate is filtered, washed in water and dried giving 6.74 g (Yield: 94%) of the expected product. M.P.=138° C. (Ex. 25) The compounds listed hereunder are obtained by reacting, in the same conditions as above, the 2,4'-dichloro-5-nitro-benzophenone with other piperidine derivatives (2-methyl, 3-methyl, 3,5-dimethylpiperidine):

reactant | NaOH | 0.024 mole, 0.96 g | [OH-].[Na+]
reactant | 2,4'-dichloro-5-nitro-benzophenone | 0.02 mole, 5.92 g | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H7Cl2NO3
reactant | 4-methylpiperidine | 0.022 mole, 2.6 ml | CC1CCNCC1 | C6H13N
solvent | water | 25 ml | O | H2O
product | 2-(4-methyl-1-piperidinyl)-5-nitro-4'-chlorobenzophenone | 6.74 g, Yield: 94% | CC1CCN(CC1)C1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C19H19ClN2O3
